US07906645B2
N-(3-chloro-4-fluorophenyl)-4-[(2R)-morpholin-2-ylmethyl]piperazine-1-carboxamide
To a stirred solution of tert-butyl (2S)-2-[(4-{[(3-chloro-4-fluorophenyl)amino]carbonyl}piperazin-1-yl)methyl]morpholine-4-carboxylate (9.867 g, 21.6 mmol) in dichloromethane (100 ml) was added TFA (100 ml). The reaction was allowed to stir at ambient temperature for 2 hours. The solvents were then removed in vacuo, residue partitioned between DCM and 2M NaOH, extracted twice and the combined organics dried (Na2SO4), filtered and evaporated to dryness to give the product as an off white solid (7.69 g, 21.6 mmol, 100%).

reactant | tert-butyl (2S)-2-[(4-{[(3-chloro-4-fluorophenyl)amino]carbonyl}piperazin-1-yl)methyl]morpholine-4-carboxylate | 21.6 mmol, 9.867 g | ClC=1C=C(C=CC1F)NC(=O)N1CCN(CC1)C[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C21H30ClFN4O4
reactant | TFA | 100 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(3-chloro-4-fluorophenyl)-4-[(2R)-morpholin-2-ylmethyl]piperazine-1-carboxamide | 21.6 mmol, 7.69 g, 100% | ClC=1C=C(C=CC1F)NC(=O)N1CCN(CC1)C[C@H]1CNCCO1 | C16H22ClFN4O2
